US07964608B2
3-(3-Chloro-phenyl)-1-[1-(1,1-dioxo-tetrahydro-thiophene-3-sulfonyl)-piperidin-4-yl]-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (51 mg) was prepared according to general procedure H from 3-(3-chloro-phenyl)-7-methoxy-1-piperidin-4-yl-1H-pyrimido[5,4-c]quinoline-2,4-dione.dihydrochloride (50 mg, 0.1 mmol) and 1,1-dioxo-tetrahydro-thiophene-3-sulfonyl chloride. LCMS: m/z 619 [M+1]+.

reactant | 3-(3-chloro-phenyl)-7-methoxy-1-piperidin-4-yl-1H-pyrimido[5,4-c]quinoline-2,4-dione.dihydrochloride | 0.1 mmol, 50 mg | Cl.Cl.ClC=1C=C(C=CC1)N1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)C1CCNCC1)=O
reactant | 1,1-dioxo-tetrahydro-thiophene-3-sulfonyl chloride | O=S1(CC(CC1)S(=O)(=O)Cl)=O | C4H7ClO4S2
product | 3-(3-Chloro-phenyl)-1-[1-(1,1-dioxo-tetrahydro-thiophene-3-sulfonyl)-piperidin-4-yl]-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 51 mg | ClC=1C=C(C=CC1)N1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)C1CCN(CC1)S(=O)(=O)C1CS(CC1)(=O)=O)=O | C27H27ClN4O7S2
